US04617312
5-(6-Chloro-2-Methoxyphenyl)-Thiazolidine-2,4-Dione
A mixture of methyl alpha-chloro-alpha-(6-chloro-2-methoxyphenyl)acetate (1.37 g, 5.5 mmoles), thiourea (0.84 g, 10.0 mmoles) and ethanol (10 ml) was refluxed for 16 hours. Concentrated hydrochloric acid (4 ml) was added to the mixture and refluxing continued for an additional 16 hours. An additional 2 ml of concentrated hydrochloric acid was added and the mixture refluxed for 16 more hours. The yellow solution was then cooled to room temperature and poured into 150 ml of water. The title product was isolated by extraction of the aqueous mixture with ethyl acetate (2×150 ml). The extract was washed with water (1×50 ml) and brine (1×50 ml), then dried (MgSO4) and concentrated in vacuo to a brown oil (0.91 g). Trituration of the oil in hexane (50 ml) gave a solid which was recrystallized from ethanol-water (1:1) as a white solid, 0.0719 g. M.P. 195°-197° C.

reactant | methyl alpha-chloro-alpha-(6-chloro-2-methoxyphenyl)acetate | 5.5 mmoles, 1.37 g | ClC(C(=O)OC)C1=C(C=CC=C1Cl)OC | C10H10Cl2O3
reactant | thiourea | 10.0 mmoles, 0.84 g | NC(=S)N | CH4N2S
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 4 ml | Cl | ClH
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 150 ml | O | H2O
product | 5-(6-Chloro-2-Methoxyphenyl)-Thiazolidine-2,4-Dione | ClC1=CC=CC(=C1C1C(NC(S1)=O)=O)OC | C10H8ClNO3S
